US03932404
One operates as in Example 12, but the 6.3 parts of 1-cyano-1-ethoxycarbonyl-4-morpholino-4-phenyl-2-aza-1,3-butadiene are replaced by 6 parts of 1-cyano-1-methoxy-carbonyl-4-morpholino-4-phenyl-2-aza-1,3-butadiene. 3.7 parts of 1-cyano-1-methoxycarbonyl-4-amino-4-phenyl-2-aza-1,3-butadiene are obtained. After recrystallisation from methanol, the product melts at 186°C.

reactant | 1-cyano-1-ethoxycarbonyl-4-morpholino-4-phenyl-2-aza-1,3-butadiene | C(#N)C(=NC=C(C1=CC=CC=C1)N1CCOCC1)C(=O)OCC | C17H19N3O3
reactant | 1-cyano-1-methoxy-carbonyl-4-morpholino-4-phenyl-2-aza-1,3-butadiene | C(#N)C(=NC=C(C1C(C=CC=C1)=C=O)N1CCOCC1)OC | C16H17N3O3
product | 1-cyano-1-methoxycarbonyl-4-amino-4-phenyl-2-aza-1,3-butadiene | C(#N)C(=NC=C(C1=CC=CC=C1)N)C(=O)OC | C12H11N3O2
